US08217066B2
Step 3: 1-[4′-(3-Methyl-4-oxiranylmethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester:
m-Chloroperbenzoic acid (77%, 0.565 g, 2.52 mmol) was washed 4× with a solution of sodium phosphate dibasic (0.1 M aq., 7 mL) then dissolved in CH2Cl2 (4 mL). The solution was added to 1-[4′-(4-Allyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.244 g, 0.63 mmol) in CH2Cl2 (3 mL) followed by sodium phosphate dibasic (0.1 M aq., 7 mL). After 3.5 hours an additional portion of m-chloroperbenzoic acid (0.55 g) was rinsed 4× with sodium phosphate dibasic (0.1 M aq., 7 mL) and added to the reaction and stirring continued overnight. The reaction was then submitted to standard aqueous workup and purified via silica gel chromatography (0-30% EtOAc in hexanes) to give the title compound.

reactant | m-Chloroperbenzoic acid | 2.52 mmol, 0.565 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-[4′-(4-Allyl-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.63 mmol, 0.244 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC=C | C25H25NO3
solvent | sodium phosphate dibasic | 0.1 M, 7 mL | OP(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | sodium phosphate dibasic | 0.1 M, 7 mL | OP(=O)([O-])[O-].[Na+].[Na+]
product | 1-[4′-(3-Methyl-4-oxiranylmethyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC1OC1 | C25H25NO4
